### PR TITLE
[Merged by Bors] - feat: Elements less than some value of a sorted tuple are at the beginning of the tuple.

### PR DESCRIPTION
**Pull request by MohanadAhmed**
For a sorted (monotone) tuple containing n elements with exactly r elements less than or equal some value, all these elements are at the first r locations of the tuple.

Proofs by @Ruben-VandeVelde , @ericrbg @eric-wieser see [Zulip Thread](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Sorted.20nonnegative.20tuple.20must.20have.20zero.20elements.20at.20start)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by ericrbg** [comment]
You don't have to put in who wrote the proof! Thought is appreciated though :) I think splitting off the lemma that EricW said would be good

**Comment by MohanadAhmed** [comment]
> You don't have to put in who wrote the proof! Thought is appreciated though :) I think splitting off the lemma that EricW said would be good

Which suggestion for a split off lemma do you mean? Which lemma?

**Comment by MohanadAhmed** [comment]
Do you mean this suggestion:
@_**Eric Wieser|310045** [said](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Sorted.20nonnegative.20tuple.20must.20have.20zero.20elements.20at.20start/near/386249454):
```quote
The proof would probably be clearer with a `calc` block or `transitivity` where that `show` is
```

**Comment by ericrbg** [comment]
No, this one:

```lean
/-- All the elements `· ≤ a` appear the start of a sorted tuple -/
lemma wierd2' {α} [LinearOrder α] (m : ℕ) (f : Fin m → α) (a : α)
    (h_sorted : Monotone f)
    (j : Fin m) (h : j < Fintype.card {i // f i ≤ a}) :
    f j ≤ a := by
```

**Comment by MohanadAhmed** [comment]
> No, this one:
> 
> ```lean
> /-- All the elements `· ≤ a` appear the start of a sorted tuple -/
> lemma wierd2' {α} [LinearOrder α] (m : ℕ) (f : Fin m → α) (a : α)
>     (h_sorted : Monotone f)
>     (j : Fin m) (h : j < Fintype.card {i // f i ≤ a}) :
>     f j ≤ a := by
> ```

But that is exactly what is in the PR:
I just called it a different name `sort_lt_at_start_of_monotone`
```lean
theorem sort_lt_at_start_of_monotone {α} [LinearOrder α] (m : ℕ) (f : Fin m → α) (a : α)
    (h_sorted : Monotone f)
    (j : Fin m) (h : j < Fintype.card {i // f i ≤ a}) :
    f j ≤ a := by
```

**Comment by ericrbg** [comment]
apologies! I'm clearly asleep at the wheel...

File: Mathlib/Data/Fin/Tuple/Sort.lean [hunk 1]
```diff
@@ -107,6 +108,20 @@ theorem monotone_sort (f : Fin n → α) : Monotone (f ∘ sort f) := by
...
+    (h_sorted : Monotone f)
+    (j : Fin m) (h : j < Fintype.card {i // f i ≤ a}) :
+    f j ≤ a := by
+  contrapose! h
+  have := Fintype.card_subtype_compl (¬f · ≤ a)
+  simp_rw [not_not, not_le] at this
+  rw [this, Fintype.card_fin, tsub_le_iff_tsub_le, Fintype.card_subtype]
+  refine le_trans (by simp) (Finset.card_mono $ show Finset.Ici j ≤ _ from fun k hk ↦ ?_)
+  simp only [Finset.mem_Ici] at hk
+  exact Finset.mem_filter.mpr ⟨Finset.mem_univ _, h.trans_le (h_sorted hk)⟩
```
Comment (alreadydone) [inline Mathlib/Data/Fin/Tuple/Sort.lean:122]: somewhat shorter, using `Iio` rather than `Ici`:
```suggestion
  rw [← Fin.card_Iio, Fintype.card_subtype]
  refine Finset.card_mono (fun i => Function.mtr ?_)
  simp_rw [Finset.mem_filter, Finset.mem_univ, true_and, Finset.mem_Iio]
  exact fun hij => (h.trans_le <| h_sorted <| le_of_not_lt hij).not_le
```

File: Mathlib/Data/Fin/Tuple/Sort.lean [hunk 2]
```diff
@@ -107,6 +108,20 @@ theorem monotone_sort (f : Fin n → α) : Monotone (f ∘ sort f) := by
   exact (monotone_proj f).comp (graphEquiv₂ f).monotone
 #align tuple.monotone_sort Tuple.monotone_sort
 
+/-- All the elements `· ≤ a` appear the start of a sorted tuple -/
+theorem sort_lt_at_start_of_monotone {α} [LinearOrder α] (m : ℕ) (f : Fin m → α) (a : α)
+    (h_sorted : Monotone f)
+    (j : Fin m) (h : j < Fintype.card {i // f i ≤ a}) :
+    f j ≤ a := by
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Sort.lean:115]: Repeating my Zulip comment: I think it would be best to have the `Iff` proof straight away.

File: Mathlib/Data/Fin/Tuple/Sort.lean [hunk 3]
```diff
@@ -107,6 +108,20 @@ theorem monotone_sort (f : Fin n → α) : Monotone (f ∘ sort f) := by
   exact (monotone_proj f).comp (graphEquiv₂ f).monotone
 #align tuple.monotone_sort Tuple.monotone_sort
 
+/-- All the elements `· ≤ a` appear the start of a sorted tuple -/
+theorem sort_lt_at_start_of_monotone {α} [LinearOrder α] (m : ℕ) (f : Fin m → α) (a : α)
+    (h_sorted : Monotone f)
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Sort.lean:113]: We should have the `Antitone` variant too which just swaps the arguments of the `le` in the appropriate places. If you're lucky it follows immediately from `OrderDual`.

File: Mathlib/Data/Fin/Tuple/Sort.lean [hunk 4]
```diff
@@ -114,14 +115,67 @@ theorem sort_lt_at_start_of_monotone {α} [LinearOrder α] (m : ℕ) (f : Fin m
...
+  rw [← Fin.card_Iio, Fintype.card_subtype]
+  refine Finset.card_mono (fun i => Function.mtr ?_)
+  simp_rw [Finset.mem_filter, Finset.mem_univ, true_and, Finset.mem_Iio]
+  exact fun hij => (h.trans_le <| h_sorted <| le_of_not_lt hij).not_le
 /- Proofs by Ruben Van de Velde, Eric {Rodriguez and Wieser} -/
 
+def Equiv.subtypeSubtype_comm  {α : Type} (p q : α → Prop) :
+    (Subtype fun x => (p x) ∧ (q x)) ≃ (Subtype fun x => (q x) ∧ (p x)) := by
+  simp_rw [and_comm]
+  apply Equiv.refl
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Sort.lean]: Using `rw` in `Type` is generally a bad idea.

There should be a `subtypeCongr` or similar which makes this a trivial consequence.

File: Mathlib/Data/Fin/Tuple/Sort.lean [hunk 5]
```diff
@@ -114,14 +115,67 @@ theorem sort_lt_at_start_of_monotone {α} [LinearOrder α] (m : ℕ) (f : Fin m
...
+
+lemma Fintype.card_eq_subtypeSubtype_comm {α : Type} [Fintype α] (p q : α → Prop)
+    [DecidablePred p] [DecidablePred q] : Fintype.card (Subtype fun x => (p x) ∧ (q x)) =
+      Fintype.card (Subtype fun x => (q x) ∧ (p x)) := by
+  refine' Fintype.card_eq.2 (Nonempty.intro ?_)
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Sort.lean:132]: Using `Fintype.card_congr` will get you there faster

File: Mathlib/Data/Fin/Tuple/Sort.lean [hunk 6]
```diff
@@ -114,14 +115,67 @@ theorem sort_lt_at_start_of_monotone {α} [LinearOrder α] (m : ℕ) (f : Fin m
...
+  have : 0 < Fintype.card {j : {x : Fin m // p x} // ¬q j} := by
+    apply Fintype.card_pos_iff.2 (Nonempty.intro ⟨⟨j, h⟩, not_lt.2 hc⟩)
+  apply (ne_of_lt this) he.symm
+  conv_rhs => rw [← Fintype.card_fin m]
+  exact Fintype.card_subtype_le _
+
+theorem sort_lt_at_start_of_monotone_iff {α} [LinearOrder α] (m : ℕ) (f : Fin m → α) (a : α)
+    (h_sorted : Monotone f)
+    (j : Fin m) :
+    (j < Fintype.card {i // f i ≤ a})  ↔ f j ≤ a :=
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Sort.lean:175]: Nice!

File: Mathlib/Data/Fin/Tuple/Sort.lean (hunk 1 above)
Comment (MohanadAhmed) [reply Mathlib/Data/Fin/Tuple/Sort.lean]: Thanks I replaced the old one

File: Mathlib/Data/Fin/Tuple/Sort.lean [hunk 7]
```diff
@@ -107,6 +109,103 @@ theorem monotone_sort (f : Fin n → α) : Monotone (f ∘ sort f) := by
...
+      Fintype.card (Subtype fun x => (q x) ∧ (p x)) := by
+  apply Fintype.card_congr
+  exact ⟨fun x => ⟨x, ⟨x.2.2, x.2.1⟩⟩, fun x => ⟨x, ⟨x.2.2, x.2.1⟩⟩,
+    fun _ => by dsimp, fun _ => by dsimp ⟩
+
+lemma Fintype.card_inter_eq_card_and {α : Type} [Fintype α] (p q : α → Prop)
+    [DecidablePred p] [DecidablePred q] : Fintype.card {i : (Subtype fun x => (p x)) // (q i)} =
+      Fintype.card (Subtype fun x => (q x) ∧ (p x)) := by
+  rw [← Fintype.card_eq_subtypeSubtype_comm p q]
+  refine' Fintype.card_eq.2 (Nonempty.intro ?_)
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Sort.lean:135]:
```suggestion
  refine Fintype.card_congr ?_
```
(untested)

Note that generally you should prefer `refine` over `refine'`; the latter was for Lean 3 compatibility when we were porting.

File: Mathlib/Data/Fin/Tuple/Sort.lean [hunk 8]
```diff
@@ -107,6 +109,103 @@ theorem monotone_sort (f : Fin n → α) : Monotone (f ∘ sort f) := by
...
+
+  have he := Fintype.card_congr $ Equiv.sumCompl $ q'
+  have h4 := (Fintype.card_congr (@Equiv.subtypeSubtypeEquivSubtype _ p q
+    (sort_ge_at_start_of_antitone m f a h_sorted _)))
+  have hw : 0 < Fintype.card {j : {x : Fin m // p x} // ¬q' j} := by
+    apply Fintype.card_pos_iff.2 (Nonempty.intro ⟨⟨j, h⟩, not_lt.2 hc⟩)
+  rw [Fintype.card_sum, h4, Fintype.card_fin_lt_nat, add_right_eq_self] at he
+  apply (ne_of_lt hw) he.symm
+  conv_rhs => rw [← Fintype.card_fin m]
+  exact Fintype.card_subtype_le _
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Sort.lean:200]: Did you try to prove this via `OrderDual`? It should follow almost trivially from your previous result.

File: Mathlib/Data/Fin/Tuple/Sort.lean [hunk 9]
```diff
@@ -107,6 +109,103 @@ theorem monotone_sort (f : Fin n → α) : Monotone (f ∘ sort f) := by
...
+theorem sort_lt_at_start_of_monotone {α} [LinearOrder α] (m : ℕ) (f : Fin m → α) (a : α)
+    (h_sorted : Monotone f)
+    (j : Fin m) (h : j < Fintype.card {i // f i ≤ a}) :
+    f j ≤ a := by
+  contrapose! h
+  rw [← Fin.card_Iio, Fintype.card_subtype]
+  refine Finset.card_mono (fun i => Function.mtr ?_)
+  simp_rw [Finset.mem_filter, Finset.mem_univ, true_and, Finset.mem_Iio]
+  exact fun hij => (h.trans_le <| h_sorted <| le_of_not_lt hij).not_le
+/- Proofs by Ruben Van de Velde, Eric {Rodriguez and Wieser}, Junyan Xu -/
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Sort.lean:122]:
```suggestion
```
This probably shouldn't be in the source code; this type of thing is best left to the PR description, perhaps via `Co-authored-by`.

File: Mathlib/Data/Fin/Tuple/Sort.lean (hunk 8 above)
Comment (MohanadAhmed) [reply Mathlib/Data/Fin/Tuple/Sort.lean:200]: I took a brief look at the API and it seemed like something that needs a bit of mental bandwidth that was exhausted by the previous proofs!!!!
Any pointers on how to use it?

Comment (eric-wieser) [reply Mathlib/Data/Fin/Tuple/Sort.lean:199]: You could start by doing
```lean
have := @sort_lt_at_start_of_monotone' (OrderDual α)
```
and then work out sensible arguments one by one

File: Mathlib/Data/Fin/Tuple/Sort.lean [hunk 10]
```diff
@@ -107,6 +109,83 @@ theorem monotone_sort (f : Fin n → α) : Monotone (f ∘ sort f) := by
...
+  refine Finset.card_mono (fun i => Function.mtr ?_)
+  simp_rw [Finset.mem_filter, Finset.mem_univ, true_and, Finset.mem_Iio]
+  exact fun hij => (h.trans_le <| h_sorted <| le_of_not_lt hij).not_le
+
+lemma Fintype.card_eq_subtypeSubtype_comm {α : Type} [Fintype α] (p q : α → Prop)
+    [DecidablePred p] [DecidablePred q] : Fintype.card (Subtype fun x => (p x) ∧ (q x)) =
+      Fintype.card (Subtype fun x => (q x) ∧ (p x)) := by
+  apply Fintype.card_congr
+  exact ⟨fun x => ⟨x, ⟨x.2.2, x.2.1⟩⟩, fun x => ⟨x, ⟨x.2.2, x.2.1⟩⟩,
+    fun _ => by dsimp, fun _ => by dsimp ⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Sort.lean:128]: Can't `simp_rw [and_comm]` close this one? In which case, I don't think this lemma is that useful.

File: Mathlib/Data/Fin/Tuple/Sort.lean [hunk 11]
```diff
@@ -107,6 +109,83 @@ theorem monotone_sort (f : Fin n → α) : Monotone (f ∘ sort f) := by
   exact (monotone_proj f).comp (graphEquiv₂ f).monotone
 #align tuple.monotone_sort Tuple.monotone_sort
 
+/-- All the elements `· ≤ a` appear the start of a sorted tuple -/
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Sort.lean:112]: This docstring is wrong; the theorem says "all the elements at the start are `≤ a`"; this docstring belongs on `sort_lt_at_start_of_monotone'` instead.

File: Mathlib/Data/Fin/Tuple/Sort.lean (hunk 10 above)
Comment (MohanadAhmed) [reply Mathlib/Data/Fin/Tuple/Sort.lean:128]: This was a `simp_rw`! 
You wrote it was a bad idea to do rw on Subtypes (I still don't know why?) , but I changed it anyway into this.u

File: Mathlib/Data/Fin/Tuple/Sort.lean (hunk 11 above)
Comment (MohanadAhmed) [reply Mathlib/Data/Fin/Tuple/Sort.lean]: This was the doc string from your example on the Zulipchat. I changed it to another description

File: Mathlib/Data/Fin/Tuple/Sort.lean [hunk 12]
```diff
@@ -107,6 +109,71 @@ theorem monotone_sort (f : Fin n → α) : Monotone (f ∘ sort f) := by
...
+  rw [Fintype.card_sum, h4, Fintype.card_fin_lt_nat, add_right_eq_self] at he
+  apply (ne_of_lt hw) he.symm
+  conv_rhs => rw [← Fintype.card_fin m]
+  exact Fintype.card_subtype_le _
+
+theorem sort_lt_at_start_of_monotone_iff {α} [LinearOrder α] (m : ℕ) (f : Fin m → α) (a : α)
+    (h_sorted : Monotone f)
+    (j : Fin m) :
+    (j < Fintype.card {i // f i ≤ a})  ↔ f j ≤ a :=
+  ⟨sort_lt_at_start_of_monotone m f a h_sorted j, sort_lt_at_start_of_monotone' _ _ _ h_sorted _⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Sort.lean:157]:
```suggestion
    (j < Fintype.card {i // f i ≤ a})  ↔ f j ≤ a := by
  constructor
  \. one_proof
  \. the_other_prood
```

File: Mathlib/Data/Fin/Tuple/Sort.lean [hunk 13]
```diff
@@ -107,6 +109,71 @@ theorem monotone_sort (f : Fin n → α) : Monotone (f ∘ sort f) := by
...
+    (h_sorted : Antitone f)
+    (j : Fin m) :
+    (j < Fintype.card {i // a ≤ f i})  → a ≤ f j :=
+  (sort_ge_at_start_of_anittone_iff _ f a h_sorted j).1
+
+theorem sort_ge_at_start_of_antitone' {α} [LinearOrder α] (m : ℕ) (f : Fin m → α) (a : α)
+    (h_sorted : Antitone f)
+    (j : Fin m) :
+    a ≤ f j → (j < Fintype.card {i // a ≤ f i})  :=
+  (sort_ge_at_start_of_anittone_iff _ f a h_sorted j).2
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Sort.lean:175]: With the above suggestion these can be deleted.

File: Mathlib/Data/Fin/Tuple/Sort.lean [hunk 14]
```diff
@@ -107,6 +109,46 @@ theorem monotone_sort (f : Fin n → α) : Monotone (f ∘ sort f) := by
...
 
+lemma Fintype.card_fin_lt_nat (m g : ℕ) (h : g ≤ m) : Fintype.card {i : Fin m // i < g } = g := by
+  conv_rhs => rw [← Fintype.card_fin g]
+  apply Fintype.card_congr
+  exact ⟨ fun x => ⟨x, x.prop⟩, fun x => ⟨⟨x, (lt_of_lt_of_le (Fin.is_lt x) h)⟩, x.prop⟩,
+    fun x => by simp, fun x => by simp⟩
+
+/-- A sorted tuple with `m` elements and exactly `Fintype.card {i // f i ≤ a}` less than `a`, has
+the elements at the start, and vice versa -/
+theorem sort_lt_at_start_of_monotone_iff {α} [LinearOrder α] (m : ℕ) (f : Fin m → α) (a : α)
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Sort.lean:120]: This feels like a slightly more standard name to me:
```suggestion
theorem lt_card_le_iff_apply_le_of_monotone {α} [LinearOrder α] (m : ℕ) (f : Fin m → α) (a : α)
```

File: Mathlib/Data/Fin/Tuple/Sort.lean [hunk 15]
```diff
@@ -107,6 +109,46 @@ theorem monotone_sort (f : Fin n → α) : Monotone (f ∘ sort f) := by
...
 
+lemma Fintype.card_fin_lt_nat (m g : ℕ) (h : g ≤ m) : Fintype.card {i : Fin m // i < g } = g := by
+  conv_rhs => rw [← Fintype.card_fin g]
+  apply Fintype.card_congr
+  exact ⟨ fun x => ⟨x, x.prop⟩, fun x => ⟨⟨x, (lt_of_lt_of_le (Fin.is_lt x) h)⟩, x.prop⟩,
+    fun x => by simp, fun x => by simp⟩
+
+/-- A sorted tuple with `m` elements and exactly `Fintype.card {i // f i ≤ a}` less than `a`, has
+the elements at the start, and vice versa -/
+theorem lt_card_le_iff_apply_le_of_monotone {α} [LinearOrder α] (m : ℕ) (f : Fin m → α) (a : α)
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Sort.lean:120]: Is `LinearOrder` still needed, or is this now true on partial orders?

Comment (MohanadAhmed) [reply Mathlib/Data/Fin/Tuple/Sort.lean:120]: I don't think partial order will work here. All the elements must be comparable with each other. Partial order allows non-comparability for some cases

File: Mathlib/Data/Fin/Tuple/Sort.lean [hunk 16]
```diff
@@ -107,6 +109,46 @@ theorem monotone_sort (f : Fin n → α) : Monotone (f ∘ sort f) := by
...
+    conv_rhs => rw [← Fintype.card_fin m]
+    exact Fintype.card_subtype_le _
+  · intro _ h
+    contrapose! h
+    rw [← Fin.card_Iio, Fintype.card_subtype]
+    refine Finset.card_mono (fun i => Function.mtr ?_)
+    simp_rw [Finset.mem_filter, Finset.mem_univ, true_and, Finset.mem_Iio]
+    exact fun hij => (h.trans_le <| h_sorted <| le_of_not_lt hij).not_le
+
+theorem lt_card_ge_iff_apply_ge_of_monotone {α} [LinearOrder α] (m : ℕ) (f : Fin m → α) (a : α)
```
Comment (MohanadAhmed) [inline Mathlib/Data/Fin/Tuple/Sort.lean:146]: ``
```suggestion
theorem lt_card_ge_iff_apply_ge_of_antitone {α} [LinearOrder α] (m : ℕ) (f : Fin m → α) (a : α)
```

File: Mathlib/Data/Fin/Tuple/Sort.lean (hunk 15 above)
Comment (eric-wieser) [reply Mathlib/Data/Fin/Tuple/Sort.lean]: It works fine, with minimal proof changes

**Comment by MohanadAhmed** [comment]
So you are requiring LE.le on the type to be decidable. But since we have the condition of cardinality of (. <= a) we have already compared against all elements and came up with true or false answers. By transivity of LE all the elements are comparable and we are back to linear order.

Unless you want to replace LinearOrder with a predicate about comparison between the m elements and the comparer a 
I think what you is basically LinearOrder.

Can you think of an example satisfying PartialOrder and Decidable LE but not a LinearOrder?

**Comment by ericrbg** [comment]
We've compared all elements against `a`. Because the order is partial you cannot just flip. The relation ≤ on N given by a ≤ b iff a = b is decidable, but is not linear.

**Comment by eric-wieser** [comment]
> Can you think of an example satisfying PartialOrder and Decidable LE but not a LinearOrder?

Yes, ` α = Finset Nat`, which orders by subset inclusion

File: Mathlib/Data/Fin/Tuple/Sort.lean [hunk 17]
```diff
@@ -109,12 +111,52 @@ theorem monotone_sort (f : Fin n → α) : Monotone (f ∘ sort f) := by
 
 end Tuple
 
+theorem Fintype.card_fin_lt_nat (m g : ℕ) (h : g ≤ m) : Fintype.card {i : Fin m // i < g } = g := by
+  conv_rhs => rw [← Fintype.card_fin g]
+  apply Fintype.card_congr
+  exact ⟨ fun x => ⟨x, x.prop⟩, fun x => ⟨⟨x, (lt_of_lt_of_le (Fin.is_lt x) h)⟩, x.prop⟩,
+    fun x => by simp, fun x => by simp⟩
```
Comment (ocfnash) [inline Mathlib/Data/Fin/Tuple/Sort.lean:118]:
```suggestion
theorem Fintype.card_fin_lt_of_le {m n : ℕ} (h : m ≤ n) :
    Fintype.card {i : Fin n // i < m} = m := by
  conv_rhs => rw [← Fintype.card_fin m]
  apply Fintype.card_congr
  exact { toFun := fun ⟨⟨i, _⟩, hi⟩ ↦ ⟨i, hi⟩
          invFun := fun ⟨i, hi⟩ ↦ ⟨⟨i, lt_of_lt_of_le hi h⟩, hi⟩
          left_inv := fun i ↦ rfl
          right_inv := fun i ↦ rfl }
```
Also, this lemma has nothing to do with sorting tuples; please place it below `Finset.card_fin` in `Data.Fintype.Card`.

File: Mathlib/Data/Fin/Tuple/Sort.lean [hunk 18]
```diff
@@ -109,12 +111,52 @@ theorem monotone_sort (f : Fin n → α) : Monotone (f ∘ sort f) := by
...
+
 namespace Tuple
 
 open List
 
 variable {n : ℕ} {α : Type*}
 
+/-- A sorted tuple with `m` elements and exactly `Fintype.card {i // f i ≤ a}` less than `a`, has
+the elements at the start, and vice versa -/
```
Comment (ocfnash) [inline Mathlib/Data/Fin/Tuple/Sort.lean:127]: I don't think I could understand this comment without the formal statement below. I admit it's hard to summarise the statement concisely but I suggest the following as an improvement:
```suggestion
/-- If `f₀ ≤ f₁ ≤ f₂ ≤ ⋯` is a sorted `m`-tuple of elements of `α`, then for any `j : Fin m` and
`a : α` we have `j < #{i | fᵢ ≤ a}` iff `fⱼ ≤ a`. -/
```

File: Mathlib/Data/Fin/Tuple/Sort.lean [hunk 19]
```diff
@@ -109,12 +111,52 @@ theorem monotone_sort (f : Fin n → α) : Monotone (f ∘ sort f) := by
...
+    conv_rhs => rw [← Fintype.card_fin m]
+    exact Fintype.card_subtype_le _
+  · intro _ h
+    contrapose! h
+    rw [← Fin.card_Iio, Fintype.card_subtype]
+    refine Finset.card_mono (fun i => Function.mtr ?_)
+    simp_rw [Finset.mem_filter, Finset.mem_univ, true_and, Finset.mem_Iio]
+    intro hij hia
+    apply h
+    exact (h_sorted (le_of_not_lt hij)).trans hia
```
Comment (ocfnash) [inline Mathlib/Data/Fin/Tuple/Sort.lean:153]: Most of this is just nitpicks but the original proof did commit two minor stylistic sins, namely:
 1. It did not capture the `suffices` goal using `· ` (instead immediately working on the head goal with `refine`)
 2. It spawned a subgoal in the rewrite using `Fintype.card_fin_lt_nat` (which I have renamed to `Fintype.card_fin_lt_of_le`). Spawning subgoals during a rewrite like this makes proofs harder to follow and maintain so it is better to create the require hypothesis in advance (as I have done with `h_le`).
```suggestion
  · refine ⟨h1 j, fun h ↦ ?_⟩
    by_contra' hc
    let p : Fin m → Prop := fun x ↦ f x ≤ a
    let q : Fin m → Prop := fun x ↦ x < Fintype.card {i // f i ≤ a}
    let q' : {i // f i ≤ a} → Prop := fun x ↦ q x
    have hw : 0 < Fintype.card {j : {x : Fin m // f x ≤ a} // ¬ q' j} :=
      Fintype.card_pos_iff.2 ⟨⟨⟨j, h⟩, not_lt.2 hc⟩⟩
    apply hw.ne'
    have he := Fintype.card_congr <| Equiv.sumCompl <| q'
    have h4 := (Fintype.card_congr (@Equiv.subtypeSubtypeEquivSubtype _ p q (h1 _)))
    have h_le : Fintype.card { i // f i ≤ a } ≤ m := by
      conv_rhs => rw [← Fintype.card_fin m]
      exact Fintype.card_subtype_le _
    rwa [Fintype.card_sum, h4, Fintype.card_fin_lt_of_le h_le, add_right_eq_self] at he
  intro _ h
  contrapose! h
  rw [← Fin.card_Iio, Fintype.card_subtype]
  refine Finset.card_mono (fun i => Function.mtr ?_)
  simp_rw [Finset.mem_filter, Finset.mem_univ, true_and, Finset.mem_Iio]
  intro hij hia
  apply h
  exact (h_sorted (le_of_not_lt hij)).trans hia
```
Further optimisations are still possible but I think the above will do.

**Review by ocfnash — APPROVED** [review]
Please apply the suggestions and then feel free to merge.

bors d+

**Comment by MohanadAhmed** [comment]
> ✌️ MohanadAhmed can now approve this pull request. To approve and merge a pull request, simply reply with `bors r+`. More detailed instructions are available [here](https://bors.tech/documentation/getting-started/#reviewing-pull-requests).

bors r+

Thanks a lot @ocfnash
